US07605269B2
A solution of Na (1.70 g, 74.8 mmol) in abs. ethanol (75 mL) is heated to 60° C. before it is treated with a solution of crude {1-[(1S,5R)-6,6-dimethyl-3-oxo-bicyclo[3.1.0]hex-(2Z)-ylidene]-ethylsulfanyl}-acetic acid ethyl ester (18.2 g, 68.0 mmol) in abs. ethanol (200 mL). The mixture is stirred at 75° C. for 20 min, then cooled to rt, diluted with 0.5 M aq. NaOH (500 mL) and extracted with DCM (450+200 mL). The combined extracts are dried over Na2SO4, filtered and the solvent is removed in vacuo. This yields crude (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid ethyl ester (10.5 g) as a yellow oil of 87% purity (LC-MS, UV 280 nm). LC-MS: tR=1.11 min, [M+1]+=251.14; 1H NMR (CDCl3): δ 4.26 (q, J=7.0 Hz, 2H), 2.95 (dp, Jd=18.8 Hz, Jp=3.5 Hz, 1H), 2.79 (d, J=19.3, 1H), 2.37 (s, 3H), 1.89-1.84 (m, 2H), 1.34 (t, J=7.0 Hz, 3H), 1.12 (s, 3H), 0.72 (s, 3H).

reactant | ethanol | 75 mL | C(C)O | C2H6O
reactant | {1-[(1S,5R)-6,6-dimethyl-3-oxo-bicyclo[3.1.0]hex-(2Z)-ylidene]-ethylsulfanyl}-acetic acid ethyl ester | 68.0 mmol, 18.2 g | C(C)OC(CS\C(\C)=C/1\[C@@H]2C([C@@H]2CC1=O)(C)C)=O | C14H20O3S
reactant | ethanol | 200 mL | C(C)O | C2H6O
solvent | NaOH | 0.5 M, 500 mL | [OH-].[Na+]
product | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid ethyl ester | 10.5 g | C(C)OC(=O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C14H18O2S
